US09428515B2
N-(2-bromo-5-fluorophenyl)-N-(propan-2-yl)cyclopropanecarboxamide E-1.7″″
2-Bromo-5-fluoro-N-(propan-2-yl)aniline E-1.7′″″ (2.20 g; 9.48 mmol) is suspended in 5 ml DCM and DIPEA (8.2 ml; 47.40 mmol) is added. Afterwards cyclopropanecarbonyl chloride (3.44 ml; 75.84 mmol) is added and the reaction mixture is stirred for 24 h at 20° C. The reaction mixture is poured into water and extracted with DCM. The combined organic layer is dried over MgSO4 and concentrated under reduced pressure. The crude product is purified using reversed phase chromatography (Method: prep. HPLC1).

reactant | 2-Bromo-5-fluoro-N-(propan-2-yl)aniline | BrC1=C(NC(C)C)C=C(C=C1)F | C9H11BrFN
reactant | DIPEA | 47.40 mmol, 8.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 75.84 mmol, 3.44 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(2-bromo-5-fluorophenyl)-N-(propan-2-yl)cyclopropanecarboxamide | BrC1=C(C=C(C=C1)F)N(C(=O)C1CC1)C(C)C | C13H15BrFNO
